US08133886B2
Step 15.2: 6-(2-Methyl-pyridin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester
9.7 g (29.5 mMol) 6-(6-chloro-2-methyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester in 950 ml THF and 24 ml (0.30 Mol) pyridine is hydrogenated in presence of 1.9 g Pd/C (10%, Engelhard 4505) during 15 h. The mixture is filtered, the solid washed extensively with THF and the filtrate concentrated. The residue is re-dissolved in EtOAc and 5% citric acid, the aq. layer separated off and extracted with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated to the title compound: HPLC: tRet=12.8.

reactant | 6-(6-chloro-2-methyl-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | 29.5 mMol, 9.7 g | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC(=C1)Cl)C | C17H13ClN2O3
reactant | pyridine | 0.30 Mol, 24 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 950 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 1.9 g | [Pd] | Pd
product | 6-(2-Methyl-pyridin-4-yloxy)-naphthalene-1-carboxylic acid methyl ester | COC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC(=NC=C1)C | C18H15NO3
